US07354934B2
Preparation of N-{3-[(1H-benzoimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-6-hydroxy-nicotinamide (hydrobromide salt)
To a solution of the above amine (63 mg, 0.14 mmol) in acetic acid (2 mL) was added hydrobromide saturated acetic acid (2 mL). The reaction mixture was stirred for 30 minutes. Then it was triturated with diethyl ether four times to afford the title compound as a white solid (80 mg), which was dried in vacuo. 1H NMR (D2O) δ 1.81-2.01 (m, 4H), 2.16-2.20 (m, 1H), 2.37-2.41 (m, 1H), 2.50-2.59 (m, 1H), 2.87-2.92 (m, 1H), 3.00 (br s, 2H), 3.11-3.16 (m, 1H), 3.37-3.42 (m, 1H), 3.53 (q, 1H, J=6.0 Hz), 4.25 (ABq, 2H, J=43.8, 15.3 Hz), 4.57-4.79 (m, 1H), 6.36 (d, 1H, J=9.6 Hz), 7.46-7.48 (m, 2H), 7.53 (s, 1H), 7.57-7.63 (m, 3H), 7.85 (t, 1H, J=6.3 Hz), 8.34 (d, 1H, J=7.8 Hz), 8.65 (d, 1H, J=5.4 Hz). 13C NMR (D2O) δ 20.33, 20.45, 36.87, 47.77, 48.22, 59.04, 114.10, 119.38, 125.90, 126.99, 130.69, 137.16, 139.46, 139.85, 140.66, 148.01, 150.87, 151.39. ES-MS m/z 457 [M+H]+. Anal. Calcd. for C26H28N6O2−.3.0HBr.3.4H2O.0.2C4H10O: C, 41.52; H, 5.17; N, 10.84; Br, 30.92. Found: C, 41.70; H, 4.90; N, 10.71; Br, 30.63.

reactant | Isoquinoline-3-carboxylic acid {3-[(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-amide | 2 mL | N1C(=NC2=C1C=CC=C2)CN(CCCNC(=O)C=2N=CC1=CC=CC=C1C2)C2CCCC=1C=CC=NC21 | C30H30N6O
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | N-{3-[(1H-benzoimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-propyl}-6-hydroxy-nicotinamide | 80 mg | N1C(=NC2=C1C=CC=C2)CN(CCCNC(C2=CN=C(C=C2)O)=O)C2CCCC=1C=CC=NC21 | C26H28N6O2
